US03960539
Dimethyl heptyl (1-hydroxy-p-menthan-2-yl) ammonium bromide
Five grams of 2-dimethylamino-1-p-menthanol and 10 g. of heptyl bromide were dissolved in 5 ml. of dimethylformamide. The solution was warmed at 90°C (under nitrogen) for 16 hours, cooled to room temperature and diluted with water (approximately 100 ml.). The mixture was transferred to a separatory funnel and washed three times with ethyl ether (20-25 ml.). The neutral, aqueous phase was concentrated to dryness on a film evaporator (at 50°C). Ninety-five percent ethanol was added to the flask contents to assist the azeotropic removal of water. Last traces of DMF were removed at high vacuum (1 mm.). Yield of dimethyl heptyl (1-hydroxy-p-menthan-2-yl) ammonium bromide was 10.2 g. (100T of theory).

reactant | 2-dimethylamino-1-p-menthanol | Five grams | CN(C1C(CCC(C1)C(C)C)(C)O)C | C12H25NO
reactant | heptyl bromide | C(CCCCCC)Br | C7H15Br
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | approximately 100 ml | O | H2O
product | Dimethyl heptyl (1-hydroxy-p-menthan-2-yl) ammonium bromide | [Br-].C[N+](C1C(CCC(C1)C(C)C)(C)O)(CCCCCCC)C | InChI=1S/C19H40NO.BrH/c1-7-8-9-10-11-14-20(5,6)18-15-17(16(2)3)12-13-19(18,4)21;/h16-18,21H,7-15H2,1-6H3;1H/q+1;/p-1
